US07875618B2
7-(3-Aminobenzyloxy)-1-(2-chlorophenyl)-3,4-dimethyl-imidazo(1,5-a)quinoxaline
2.0 g 1-(2-Chlorophenyl)-3,4-dimethyl-7-(3-nitrobenzyloxy)-imidazo(1,5-a)quinoxaline was dissolved in 50 mL methanol, 0.4 g Raney Nickel was added followed by dropwise addition of 2.1 mL hydrazine hydrate. The reaction mixture was stirred 1 h at 40° C. and 10 min at reflux. After cooling the catalyst was filtered off, the solvent was removed by distillation and the residue was re-crystallised from 2-propanol.

reactant | 1-(2-Chlorophenyl)-3,4-dimethyl-7-(3-nitrobenzyloxy)-imidazo(1,5-a)quinoxaline | 2.0 g | ClC1=C(C=CC=C1)C1=NC(=C2N1C1=CC=C(C=C1N=C2C)OCC2=CC(=CC=C2)[N+](=O)[O-])C | C25H19ClN4O3
reactant | hydrazine hydrate | 2.1 mL | O.NN
solvent | methanol | 50 mL | CO | CH4O
catalyst | Raney Nickel | 0.4 g | [Ni] | Ni
product | 7-(3-Aminobenzyloxy)-1-(2-chlorophenyl)-3,4-dimethyl-imidazo(1,5-a)quinoxaline | NC=1C=C(COC=2C=C3N=C(C=4N(C3=CC2)C(=NC4C)C4=C(C=CC=C4)Cl)C)C=CC1 | C25H21ClN4O
